US07470710B2
(RS)-2-(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-ylmethyl)-benzofuran-3-carbonitrile
To (RS)-1-[2-(3-bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone, E81 (270 mg, 0.53 mmol) in N-methyl-pyrrolidinone (8 ml) was added copper(I)cyanide (96 mg, 1.06 mmol) and the mixture stirred under argon at reflux for 6 h. The reaction mixture was cooled, poured into water (80 ml) and ethyl acetate (50 ml) and then filtered through kieselguhr. The filtrate was separated and the aqueous phase extracted with ethyl acetate (2×). The combined organics were washed with water (4×50 ml), dried and the solvent removed in vacuo. Chromatography (silica gel) afforded the title compound as a white amorphous solid (94 mg, 39%).

reactant | (RS)-1-[2-(3-bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | BrC1=C(OC2=C1C=CC=C2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H22BrFN2O2S
reactant | copper(I)cyanide | 1.06 mmol, 96 mg | [Cu]C#N
reactant | water | 80 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N-methyl-pyrrolidinone | 8 ml | CN1C(CCC1)=O | C5H9NO
product | (RS)-2-(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-ylmethyl)-benzofuran-3-carbonitrile | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC=1OC2=C(C1C#N)C=CC=C2 | C26H22FN3O2S
